US07012075B2
To bis(2,2,2-trichloroethyl) 4-bromo-1-methyl-1H-pyrazol-3-ylimidodicarbonate (5.73 g, 10.87 mmol) in THF (50 mL) was added dropwise an aqueous potassium hydroxide solution (2.0 M, 5.7 mL, 11.4 mmol) and the reaction was stirred at rt for 30 minutes. An additional aliquot of aqueous potassium hydroxide (2.0 M, 1.4 mL, 2.8 mmol) was added and the reaction stirred for ½ hour. The reaction was quenched with aqueous saturated ammonium chloride, water was added, the product extracted with Et2O (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 1/1) to afford 2,2,2-trichloroethyl 4-bromo-1-methyl-1H-pyrazol-3-ylcarbamate.

reactant | bis(2,2,2-trichloroethyl) 4-bromo-1-methyl-1H-pyrazol-3-ylimidodicarbonate | 10.87 mmol, 5.73 g | BrC=1C(=NN(C1)C)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C10H8BrCl6N3O4
reactant | potassium hydroxide | 11.4 mmol, 2.0 M, 5.7 mL | [OH-].[K+]
reactant | potassium hydroxide | 2.8 mmol, 2.0 M, 1.4 mL | [OH-].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,2,2-trichloroethyl 4-bromo-1-methyl-1H-pyrazol-3-ylcarbamate | BrC=1C(=NN(C1)C)NC(OCC(Cl)(Cl)Cl)=O | C7H7BrCl3N3O2
